US04639264
N-(2-Methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(4,5-dihydrothiazol-2-yl-thiomethyl)-pyrimidin-2-yl]-urea (compound No. 2.15)
7.0 g of 2-amino-4-methoxy-6-(4,5-dihydrothiazol-2-yl)-pyrimidine are suspended in 50 ml of abs. acetonitrile, and 6.6 g of 2-methoxycarbonylphenylsulfonylisocyanate are added. There is formed a clear solution with heating, and the product subsequently precipitates in crystalline form. After the reaction mixture has been stirred for 3 hours at 20°-25° C., it is cooled to 0° C. and the solid substance is separated. There is thus obtained N-(2-methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(4,5-dihydrothiazol-2-yl)-thiomethyl-pyrimidin-2-yl]-urea, m.p. 135°-145° C. (decomp.).

reactant | 2-amino-4-methoxy-6-(4,5-dihydrothiazol-2-yl)-pyrimidine | 7.0 g | NC1=NC(=CC(=N1)OC)C=1SCCN1 | C8H10N4OS
reactant | 2-methoxycarbonylphenylsulfonylisocyanate | 6.6 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Methoxycarbonylphenyl-sulfonyl)-N'-[4-methoxy-6-(4,5-dihydrothiazol-2-yl-thiomethyl)-pyrimidin-2-yl]-urea | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)CSC=1SCCN1 | C18H19N5O6S3
